US04622320
5-Cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole
A stirred solution of 5-cyclopropyl-3-formylamino-methyl-1,2,4-oxadiazole (60 mmol) and triethylamine (176 mmol) in CH2Cl2 (100 ml) was charged dropwise with POCl3 (60 mmol) at 0° C., whereafter a solution of Na2CO3 (60 mmol) in H2O (50 ml) was added. The mixture was heated to room temperature, whereafter the organic phase was separated, dried and evaporated in vacuo. The residue was treated with ether, decanted and the solution was evaporated to give the title compound as an oil.

reactant | 5-cyclopropyl-3-formylamino-methyl-1,2,4-oxadiazole | 60 mmol | C1(CC1)C1=NC(N(O1)C)NC=O | C7H11N3O2
reactant | triethylamine | 176 mmol | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 60 mmol | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | 60 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 ml | O | H2O
product | 5-Cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
